US05631259
6.3 g (50 mmol) of thymine are treated with 2 mol % of the palladium(0) catalyst prepared in situ as described above and with one equivalent of 3,4-epoxycyclohexene in tetrahydrofuran first at 0° C. and then for 4 hours at the reflux temperature. Methanol is added to the reaction mixture, the suspension is filtered, the filtrate is concentrated and the residue is chromatographed over silica gel using methylene chloride/methanol 20/1. 1.8 g (16.2% of theory) of 1-[(4RS)-4-hydroxy-cyclohex-1-en-1-yl]thymine of melting point 223° C. are obtained. 1H NMR (270 MHz, d6 -DMSO); δ[ppm]: 11.23 (s, 1H), 7.69 (s, 1H), 4.59 (m, 1H), 2.84 (t, 1H), 2.42-1.81 (m, 6H), 1.79 (s, 3H), 1.61 (m, 1H).

reactant | thymine | 50 mmol, 6.3 g | N1C(=O)NC(=O)C(C)=C1 | C5H6N2O2
reactant | 3,4-epoxycyclohexene | one equivalent | O1C2C=CCCC21 | C6H8O
reactant | Methanol | CO | CH4O
catalyst | palladium(0) | [Pd] | Pd
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[(4RS)-4-hydroxy-cyclohex-1-en-1-yl]thymine | 1.8 g, 16.2% | OC1CC=C(CC1)N1C(=O)NC(=O)C(C)=C1 | C11H14N2O3
